US09120822B2
Phosphorus tribromide (140 mg, 0.53 mmol, 1.3 eq) is added at 0° C. to a stirred suspension of 3-bromo-6-methoxy-[1,5]naphthyridin-4-ol (100 mg, 0.39 mmol, 1.0 eq) in N,N-dimethylformamide (1 mL). After 2 hours stirring at room temperature, the reaction mixture is poured into saturated sodium carbonate aqueous solution (50 mL). The resulting suspension is filtered and the cake is washed with water and methanol to afford 7,8-dibromo-2-methoxy-[1,5]naphthyridine as a white solid (100 mg, 80% yield).

reactant | Phosphorus tribromide | 0.53 mmol, 140 mg, 1.3 eq | P(Br)(Br)Br | Br3P
reactant | 3-bromo-6-methoxy-[1,5]naphthyridin-4-ol | 0.39 mmol, 100 mg, 1.0 eq | BrC=1C=NC2=CC=C(N=C2C1O)OC | C9H7BrN2O2
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 7,8-dibromo-2-methoxy-[1,5]naphthyridine | 100 mg, 80% yield | BrC1=CN=C2C=CC(=NC2=C1Br)OC | C9H6Br2N2O
